US07772226B2
(a) 5-Benzyloxymethyl-4-oxo-4,5-dihydroimidazo[4,5-d]pyridazine-1-sulfonic acid dimethylamide
2.08 g of triethylamine, 2.80 g of N,N-dimethyl sulfamoyl chloride, and 0.22 g of 4-dimethylaminopyridine were added to 50 ml of a dichloromethane solution of 3.04 g of 5-benzyloxymethylimidazo[4,5-d]pyridazin-4-one [CAS NO. 82137-50-6] (R. Paul Gagnier, Michael J. Halat, and Brian A. Otter Journal of Heterocyclic Chemistry, 21, p 481, 1984), and the mixture was heated under reflux for 4 hours. 250 ml of ethyl acetate was added to the solution, and the mixture was washed successively with 50 ml of an aqueous solution of 1N hydrochloric acid, 50 ml of a saturated sodium bicarbonate solution, and 50 ml of a saturated sodium chloride solution. The mixture was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 2.86 g of the title compound was obtained from the fraction eluted with hexane-ethyl acetate (2:3).

reactant | triethylamine | 2.08 g | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethyl sulfamoyl chloride | 2.80 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | 5-benzyloxymethylimidazo[4,5-d]pyridazin-4-one | 3.04 g | C(C1=CC=CC=C1)OCN1NC=C2C(C1=O)=NC=N2 | C13H12N4O2
catalyst | 4-dimethylaminopyridine | 0.22 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 5-Benzyloxymethyl-4-oxo-4,5-dihydroimidazo[4,5-d]pyridazine-1-sulfonic acid dimethylamide | 2.86 g | CN(S(=O)(=O)N1C=NC2=C1C=NN(C2=O)COCC2=CC=CC=C2)C | C15H17N5O4S
